US06653330B2
Commercially available 4-formylbenzoic acid (5.0 g, 33.3 mmol) was dissolved in a mixture of anhydrous tetrahydrofuran (100 ml) and anhydrous N,N-dimethylformamide (1 ml) and the mixture was cooled with stirring to 0° C. To the resulting mixture was added dropwise oxalyl chloride (3.8 ml, 43.3 mmol). The mixture was stirred at room temperature for 30 minutes and then at 40° C. for 20 minutes. The reaction mixture was concentrated under reduced pressure and then in vacuo to afford 4-formylbenzoyl chloride. 4-(2,2,3,3-Tetrafluoropropoxy)aniline (646 mg, 2.9 mmol), described in Chem. Pharm. Bull., 44 (2), 314 (1996), and N,N-diisopropylethylamine (1.21 ml, 7.0 mmol) were dissolved in anhydrous tetrahydrofuran (8 ml) and the mixture was cooled to 0° C. with stirring. To the resulting mixture was added dropwise a solution of 4-formylbenzoyl chloride (561 mg, 3.33 mmol) obtained above in anhydrous tetrahydrofuran (2 ml). This mixture was stirred at room temperature for 17 hours and then at 40° C. for 20 minutes. At the end of this time, saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture in an ice bath and the mixture was partitioned between ethyl acetate and water. The organic layer was washed sequentially with 0.5N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution, water, and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The crystalline residue was recrystallized from a mixture of ethyl acetate and hexane to give 4-formyl-4′-(2,2,3,3-tetrafluoropropoxy)benzanilide (634 mg, yield 62%) as pale yellow crystals.

reactant | 4-(2,2,3,3-Tetrafluoropropoxy)aniline | 2.9 mmol, 646 mg | FC(COC1=CC=C(N)C=C1)(C(F)F)F | C9H9F4NO
reactant | N,N-diisopropylethylamine | 7.0 mmol, 1.21 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-formylbenzoyl chloride | 3.33 mmol, 561 mg | C(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-formyl-4′-(2,2,3,3-tetrafluoropropoxy)benzanilide | 634 mg, yield 62% | C(=O)C1=CC=C(C(=O)NC2=CC=C(C=C2)OCC(C(F)F)(F)F)C=C1 | C17H13F4NO3
